US08232289B2
To a solution of 2-[4-[(2-chloro-4,4-difluoro-spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine]-1′-yl)methyl]-3-methyl-pyrazol-1-yl]pyridine-3-carbaldehyde (12.50 g, 26.10 mmol) in dichloromethane (125 mL) at 0° C. is added sodium borohydride (0.395 g, 10.44 mmol) and methanol (37.50 mL). The ice bath is removed and the reaction is stirred at room temperature for 30 min. Water (50 mL) is added and the mixture is concentrated to half volume resulting in a white sticky solid precipitate. Dichloromethane (100 mL) is added and the biphasic mixture is separated. The organic layer is washed with water (50 mL), dried over sodium sulfate and concentrated to half volume (around 100 mL). Methyl tert-butyl ether (100 mL) is added and the solution is concentrated to provide a precipitate. The solid is filtered and dried under vacuum to give 12 g of [2-[4-[(2-chloro-4,4-difluoro-spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine]-1′-yl)methyl]-3-methyl-pyrazol-1-yl]-3-pyridyl]methanol. MS (m/z): 481 (M+1).

reactant | 2-[4-[(2-chloro-4,4-difluoro-spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine]-1′-yl)methyl]-3-methyl-pyrazol-1-yl]pyridine-3-carbaldehyde | 26.10 mmol, 12.50 g | ClC1=CC2=C(S1)C1(CCN(CC1)CC=1C(=NN(C1)C1=NC=CC=C1C=O)C)OCC2(F)F | C22H21ClF2N4O2S
reactant | sodium borohydride | 10.44 mmol, 0.395 g | [BH4-].[Na+]
reactant | methanol | 37.50 mL | CO | CH4O
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 100 mL | ClCCl | CH2Cl2
product | [2-[4-[(2-chloro-4,4-difluoro-spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine]-1′-yl)methyl]-3-methyl-pyrazol-1-yl]-3-pyridyl]methanol | 12 g | ClC1=CC2=C(S1)C1(CCN(CC1)CC=1C(=NN(C1)C1=NC=CC=C1CO)C)OCC2(F)F | C22H23ClF2N4O2S
